US08067445B2
Step 1: 2-{2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-2-methyl-propionic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: 2-(2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-2-methyl-propionic acid ethyl ester and benzyl chloroformate.

reactant | 2-(2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C23H28F3NO3
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | 2-{2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C31H34F3NO5
